US07790885B2
Benzyl 1-[({4-[(2-aminopyridin-4-yl)oxy]-2,5-difluorophenyl}amino)carbonyl]cyclopropanecarboxylate
Benzyl 1-{[(4-{[2-(aminocarbonyl)pyridin-4-yl]oxy}-2,5-difluorophenyl)amino]carbonyl}cyclopropanecarboxylate (1.55 g) was dissolved in N,N-dimethylformamide (33 ml). Water (0.299 ml) and iodobenzene diacetate (1.18 g) were added at room temperature, and the mixture was stirred for 15 hours and 20 minutes. Iodobenzene diacetate (215 mg) was added again and the mixture was stirred for 2 hours and 20 minutes. Water (150 ml) was added to the mixture, and the mixture was stirred for 1 hour, and partitioned after the addition of a saturated aqueous solution of sodium hydrogencarbonate (200 ml) and ethyl acetate (300 ml). The organic layer was washed with water (200 ml, twice) and brine (150 ml), and dried over anhydrous magnesium sulfate. The desiccant was removed by filtration, and the filtrate was concentrated under reduced pressure. The resultant residue was purified by silica gel column chromatography (Fuji Silysia NH, eluent; heptane:ethyl acetate=1:2). The fractions containing the target compound were concentrated under reduced pressure to give the title compound (1.217 g, 83%) as a pale yellow solid.

reactant | Benzyl 1-{[(4-{[2-(aminocarbonyl)pyridin-4-yl]oxy}-2,5-difluorophenyl)amino]carbonyl}cyclopropanecarboxylate | 1.55 g | NC(=O)C1=NC=CC(=C1)OC1=CC(=C(C=C1F)NC(=O)C1(CC1)C(=O)OCC1=CC=CC=C1)F | C24H19F2N3O5
reactant | Water | 0.299 ml | O | H2O
reactant | iodobenzene diacetate | 1.18 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
reactant | Iodobenzene diacetate | 215 mg | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
reactant | Water | 150 ml | O | H2O
reactant | N,N-dimethylformamide | 33 ml | CN(C=O)C | C3H7NO
product | Benzyl 1-[({4-[(2-aminopyridin-4-yl)oxy]-2,5-difluorophenyl}amino)carbonyl]cyclopropanecarboxylate | 1.217 g, 83% | NC1=NC=CC(=C1)OC1=CC(=C(C=C1F)NC(=O)C1(CC1)C(=O)OCC1=CC=CC=C1)F | C23H19F2N3O4
